US06599902B2
Synthesis of 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-Imidazol-1-yl-propyl)-amide
To a solution of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [1,2,3]triazolo[4,5-b]pyridin-3-yl ester (100 mg, 0.162 mmol) in DMA (2 mL) was added 3-imidazol-1-yl-propylamine (40 mg, 2 eq.). The mixture was stirred at rt for 2 hours. The reaction was concentrated, diluted with DCM, washed with sat. NaHCO3 and water, concentrated and triturated with methanol to give the titled compound as a yellow solid.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [1,2,3]triazolo[4,5-b]pyridin-3-yl ester | 0.162 mmol, 100 mg | N1=NN(C2=NC=CC=C21)OC(=O)C2=C(NC(=C2C)\C=C\2/C(NC1=CC=C(C=C21)S(=O)(=O)CC2=C(C=CC=C2Cl)Cl)=O)C | C28H20Cl2N6O5S
reactant | 3-imidazol-1-yl-propylamine | 40 mg, 2 eq. | N1(C=NC=C1)CCCN | C6H11N3
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-Imidazol-1-yl-propyl)-amide | N1(C=NC=C1)CCCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C29H27Cl2N5O4S
